US03974282
PREPARATION OF 3(4-METHYL STYRYL) PYRIDINE
p-Tolualdehyde (12.0 g), 3-picoline (8.6 g) and acetic anhydride (10.2 g) were heated at 160°C for 16 hrs. The reaction mixture was then poured hot into 10% NaOH (60 ml). The solid which crystallised was filtered off and subjected to column chromatography with neutral alumina using chloroform as solvent. Mpt. 166°C.

reactant | p-Tolualdehyde | 12.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 3-picoline | 8.6 g | N1=CC(=CC=C1)C | C6H7N
reactant | acetic anhydride | 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | NaOH | 60 ml | [OH-].[Na+]
product | 3(4-METHYL STYRYL) PYRIDINE | CC1=CC=C(C=CC=2C=NC=CC2)C=C1 | C14H13N
